US09233173B2
1.8.2 Synthesis of α-Amanitin-glutaric acid N-hydroxysuccinimidate
3.4 mg of α-amanitin glutarate (3.3 μmol) was dissolved in 0.05 ml of dry dimethylformamide (DMF), and 2.4 mg (7 eq.) of N-hydroxy-succinimide dissolved in 0.01 ml of DMF were added. After the addition of 1.2 mg of dicyclohexylcarbodiimide in 0.01 ml of DMF the reaction was allowed to proceed for 16 h at RT. The solution was separated from the crystals formed, and the peptide precipitated by the addition of 4 ml of dry diethylether. After centrifugation, the pellet was washed with another 4 ml of ether and centrifuged. The solid was dissolved in 0.1 ml of dimethylformamide and immediately used for the reaction with the antibody solution.

reactant | α-amanitin glutarate | 3.3 μmol, 3.4 mg | CC[C@H](C)[C@H]1C(=O)NCC(=O)N[C@@H]2C[S+](C3=C(C=4C=CC(=CC4N3)O)C[C@@H](C(=O)NCC(=O)N1)NC(=O)[C@@H](NC(=O)[C@@H]5C[C@H](CN5C(=O)[C@@H](NC2=O)CC(=O)N)O)[C@@H](C)[C@H](CO)O)[O-].C(CCCC(=O)[O-])(=O)[O-]
reactant | N-hydroxy-succinimide | 2.4 mg, 7 eq. | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 1.2 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 0.05 ml | CN(C=O)C | C3H7NO
solvent | DMF | 0.01 ml | CN(C=O)C | C3H7NO
solvent | DMF | 0.01 ml | CN(C=O)C | C3H7NO
product | α-Amanitin glutaric acid N-hydroxysuccinimidate | CC[C@H](C)[C@H]1C(=O)NCC(=O)N[C@@H]2C[S+](C3=C(C=4C=CC(=CC4N3)O)C[C@@H](C(=O)NCC(=O)N1)NC(=O)[C@@H](NC(=O)[C@@H]5C[C@H](CN5C(=O)[C@@H](NC2=O)CC(=O)N)O)[C@@H](C)[C@H](CO)O)[O-].ON=C(CCC(O)=N)O.C(CCCC(=O)O)(=O)O | InChI=1S/C39H54N10O14S.C5H8O4.C4H8N2O3/c1-4-16(2)31-36(60)42-11-29(55)43-25-15-64(63)38-21(20-6-5-18(51)7-22(20)46-38)9-23(33(57)41-12-30(56)47-31)44-37(61)32(17(3)27(53)14-50)48-35(59)26-8-19(52)13-49(26)39(62)24(10-28(40)54)45-34(25)58;6-4(7)2-1-3-5(8)9;5-3(7)1-2-4(8)6-9/h5-7,16-17,19,23-27,31-32,46,50-53H,4,8-15H2,1-3H3,(H2,40,54)(H,41,57)(H,42,60)(H,43,55)(H,44,61)(H,45,58)(H,47,56)(H,48,59);1-3H2,(H,6,7)(H,8,9);9H,1-2H2,(H2,5,7)(H,6,8)/t16-,17-,19+,23-,24-,25+,26-,27-,31-,32-,64?;;/m0../s1
